US06653313B2
A. 1-(2-[(2-bromobenzyl)oxy]ethyl}pyrrolidine
To a stirred suspension of potassium tert-butoxide (4.94 g, 44.0 mmol) in anhydrous THF (60 ml) was added dropwise a solution of 1-pyrrolidineethanol (5.07 g, 44.0 mmol) in anhydrous THF (20 ml) at 0° C. After 30 min at same temperature, to this was added dropwise a solution of 2-bromobenzyl bromide (10.0 g, 40.0 mmol) in anhydrous THF (20 ml) at 0° C. The reaction mixture was stirred at room temperature for 3 h. Water and 1:1 mixture of ethyl acetate and hexane were added to the reaction mixture and organic layer was separated. The organic layer was washed with water, brine and dried over sodium sulfate. After filtration, the filtrate was concentrated in vacuo to afford the titled compound (11.3 g, 99.3%) as a pale yellow oil.

reactant | potassium tert-butoxide | 44.0 mmol, 4.94 g | CC(C)([O-])C.[K+]
reactant | 1-pyrrolidineethanol | 44.0 mmol, 5.07 g | N1(CCCC1)CCO | C6H13NO
reactant | 2-bromobenzyl bromide | 40.0 mmol, 10.0 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | Water | O | H2O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-[(2-bromobenzyl)oxy]ethyl}pyrrolidine | 11.3 g, 99.3% | BrC1=C(COCCN2CCCC2)C=CC=C1 | C13H18BrNO
